US07772245B2
To a stirred solution of 4-bromophenylhydrazine hydrochloride (5.0 g, 22.36 mmol) in ethanol (100 mL), piperidin-4-one hydrochloride (1.316 g, 8.5984 mmol) was added and the mixture was heated to reflux. The reflux was maintained for 4 hours, then cooled to room temperature and dry hydrogen chloride gas was passed for 1 hour through the reaction mixture. The mixture was then again heated to reflux and maintained for 2 h. After completion of reaction, ethanol was distilled off under vacuum and the residue was dissolved in water. The aqueous layer was neutralized with 2N sodium hydroxide solution and was extracted in dichloromethane (2×100 mL). The pH of the aqueous layer was then adjusted to 12.0 with 2N sodium hydroxide solution and the product was extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous sodium sulfate and concentrated under vacuum. The crude solid was washed with diethyl ether (50 mL) to obtain 8-bromo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (2.2 g, 39.3%) with purity 98.82% by HPLC. 1HNMR (200 MHz, DMSO-d6) δ: 2.7 (t, 2H, CH2), 3.0 (t, 2H, CH2), 3.8 (d, 2H, CH2), 7.05 (d, 1H, Ar—H), 7.2 (d, 1H, Ar—H), 7.45 (s, 1H, Ar—H), 10.97 (bs, 1H, NH). m/e=251 (M++1).

reactant | 4-bromophenylhydrazine hydrochloride | 22.36 mmol, 5.0 g | Cl.BrC1=CC=C(C=C1)NN
reactant | piperidin-4-one hydrochloride | 8.5984 mmol, 1.316 g | Cl.N1CCC(CC1)=O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 8-bromo-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 2.2 g, 39.3% | BrC1=CC=2C3=C(NC2C=C1)CCNC3 | C11H11BrN2
